US07163937B2
Synthesis of (1R,2S,5R)-methyl 5(isopropyl(methyl)amino)-2-((S)-2-oxo-3-(3-(trifluoromethyl)benzamido)pyrrolidin-1-yl)cyclohexanecarboxylate
A solution of (1R,2S,5R)-methyl 2-((S)-3-amino-2-oxopyrrolidin-1-yl)-5-(isopropyl(methyl)amino)-cyclohexanecarboxylate (50 mg, 0.16 mmol), 3-(trifluoromethyl)benzoic acid (38 mg, 0.20 mol), EDCI (38 mg, 0.20 mmol), HOBT (27 mg, 0.20 mmol), and Et3N (20 mg 0.20 mmol) in CH2Cl2 was stirred overnight at room temperature. The solution was washed with water and brine, concentrated in vacuo and the residue chromatographed on silica gel (3%–5%–10% (NH4OH/MeOH)/CH2Cl2) to give 30 mg of the title product as a white solid. MS found: (M+H)+=484.25

reactant | (1R,2S,5R)-methyl 2-((S)-3-amino-2-oxopyrrolidin-1-yl)-5-(isopropyl(methyl)amino)-cyclohexanecarboxylate | 0.16 mmol, 50 mg | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)N(C)C(C)C)C(=O)OC)=O | C16H29N3O3
reactant | 3-(trifluoromethyl)benzoic acid | 0.20 mol, 38 mg | FC(C=1C=C(C(=O)O)C=CC1)(F)F | C8H5F3O2
reactant | EDCI | 0.20 mmol, 38 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.20 mmol, 27 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 0.20 mmol, 20 mg | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (1R,2S,5R)-methyl 5(isopropyl(methyl)amino)-2-((S)-2-oxo-3-(3-(trifluoromethyl)benzamido)pyrrolidin-1-yl)cyclohexanecarboxylate | 30 mg | C(C)(C)N([C@@H]1CC[C@@H]([C@@H](C1)C(=O)OC)N1C([C@H](CC1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)C | C24H32F3N3O4
